US07230011B2
2,6-Difluorobenzenesulfonic acid 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using a solution of 2,6-difluorobenzenesulfonyl chloride (380 mg, 1.79 mmol) in THF (5 mL) was added to a mixture of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole (340 mg, 1.49 mmol) in 0.2 N sodium hydroxide (8.2 mL, 1.64 mmol) and THF (5 mL) gave 170 mg (28%) of homogeneous product as a tan solid. The product was crystallized from ethyl acetate to give 96 mg (16%) of the title compound as a yellow powder: mp 183° C. dec; MS(m/e): 405 (M+1), 403 (M−1); Calculated for C20H18F2N2O3S: C, 59.40; H, 4.49; N, 6.93. Found: C, 59.22; H, 4.24; N, 6.65.

reactant | 2,6-difluorobenzenesulfonyl chloride | 1.79 mmol, 380 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole | 1.49 mmol, 340 mg | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)O | C14H16N2O
reactant | sodium hydroxide | 1.64 mmol, 0.2 N, 8.2 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,6-Difluorobenzenesulfonic acid 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl ester | 170 mg, 28% | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=C(C=CC=C1F)F | C20H18F2N2O3S
